US06242443B1
c) 3-(Imidazol-1-yl)-4H-1,2,4-benzothiadiazine-7-carboxylic acid 1,1-dioxide
4-Amino-3-sulfamoylbenzoic acid (6 g) and thiocarbonyldiimidazole (23.2 g) in dioxane (60 mL) was refluxed for 2 h. The solvent was removed by distillation under reduced pressure. The residue was dispersed in water (200 mL) and supplemented with a 10% aqueous solution of NaOH (40 mL). After stirring for 30 min. at room temperature, the solution was treated with charcoal, filtered, and the filtrate was adjusted to pH 2 with 12N HCl. The resulting precipitate was collected by filtration, washed with water and dried to give the title compound (yield: 4.5 g); m.p. >300° C.

reactant | 4-Amino-3-sulfamoylbenzoic acid | 6 g | NC1=C(C=C(C(=O)O)C=C1)S(N)(=O)=O | C7H8N2O4S
reactant | thiocarbonyldiimidazole | 23.2 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 3-(Imidazol-1-yl)-4H-1,2,4-benzothiadiazine-7-carboxylic acid 1,1-dioxide | yield: 4.5 g | N1(C=NC=C1)C1=NS(C2=C(N1)C=CC(=C2)C(=O)O)(=O)=O | C11H8N4O4S
